US06777395B2
2′-O-[2-(N,N-diethylaminooxy)ethyl]-5-methyluridine
A mixture of triethlyamine trihydrogenfluoride (4.39 mL, 26.81 mmol) and triethylamine (1.87 mL, 13.41 mmol) in THF (53.6 mL) was added to 5′-O-tert-butyldiphenylsilyl-2′-O-[2-(N,N-diethylaminooxy)ethyl]-5-methyluridine (3.28 g, 5.36 mmol). The reaction mixture was stirred at room temperature for 18 h. Solvent was removed in vacuo. The residue was placed on a silica gel column and eluted with CH2Cl2/MeOH/NEt3, 89:10:1, to yield the title compound (1.49 g).

reactant | triethylamine | 13.41 mmol, 1.87 mL | C(C)N(CC)CC | C6H15N
reactant | 5′-O-tert-butyldiphenylsilyl-2′-O-[2-(N,N-diethylaminooxy)ethyl]-5-methyluridine | 5.36 mmol, 3.28 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCON(CC)CC)O | C32H45N3O7Si
solvent | THF | 53.6 mL | C1CCOC1 | C4H8O
product | 2′-O-[2-(N,N-diethylaminooxy)ethyl]-5-methyluridine | 1.49 g | C(C)N(OCCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C)CC | C16H27N3O7
